US07582629B2
4-{[4-(4-Benzylpiperazin-1-yl)phenyl]amino}-2-butyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide
A mixture of 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.400 g, 1.334 mmol), [4-(4-benzylpiperazin-1-yl)phenyl]amine (0.357 g, 1.334 mmol) and TEA (0.190 ml, 1.334 mmol) in MeCN (5 ml) was heated in a microwave reactor at 120° C. for 35 mins, 160° C. for 20 mins and 180° C. for 20 mins. The reaction mixture was evaporated and the residue was purified by flash chromatography (Horizons Biotage) using 35-65% EtOAc in petroleum ether 40-60° C. as eluent to give the title compound (0.721 g, 78%). 1H NMR (500 MHz CDCl3); δ 7.40-7.32 (m, 3H), 7.30-7.24 (m, 2H), 7.22-7.18 (m, 1H), 7.16-7.08 (m, 4H), 6.60 (d, 2H), 6.52 (d, 2H), 3.78 (t, 2H), 3.57 (d, 2H), 3.05 (t, 4H), 2.57 (t, 4H), 1.92-1.84 (m, 2), 1.54-1.46 (m, 2H), 1.01 (t, 3H); 13C NMR (125 MHz CDCl3).: 159.7, 149.4, 138.1, 131.5, 129.5, 129.4, 128.9, 128.5, 128.1, 127.9, 127.4, 125.1, 123.6, 118.8, 109.4, 63.3, 53.1, 49.5, 40.4, 30.5, 20.3, 13.8; Mass Spectrum: M+H+ 531.

reactant | 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 1.334 mmol, 0.400 g | C(CCC)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | [4-(4-benzylpiperazin-1-yl)phenyl]amine | 1.334 mmol, 0.357 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(C=C1)N | C17H21N3
solvent | MeCN | 5 ml | CC#N | C2H3N
product | 4-{[4-(4-Benzylpiperazin-1-yl)phenyl]amino}-2-butyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.721 g, 78% | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(C=C1)NC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)CCCC)=O | C30H34N4O3S
